US04855301
(F) (-)-3-[(Dimethylamino)carbonyl]-1,2,3,4-tetrahydro-6-methyl-4-(3-nitrophenyl)-2-oxo-5-pyrimidinecarboxylic acid, 1-methylethyl ester
3-Chloroperoxybenzoic acid (3 eq, 2.0 mmol, 349 mg) was added to a solution of (-)-3,4-dihydro-3-[(dimethylamino)carbonyl]-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methylethyl ester in dry dichloromethane (6.7 ml) at 0° C. under a nitrogen atmosphere. The reaction was stirred overnight at room temperature, and a precipitate formed. The mixture was diluted with ethyl acetate (15 ml) and washed with 1N hydrochloric acid (twice), 1N sodium hydroxide (twice) and water. The combined organic layers were dried over magnesium sulfate, filtered, and reduced in vacuo to afford an oil, 390 mg. Flash chromatography on 39 g silica gel (2:1:ethyl acetate:hexanes) afforded the product as an oil. The oil was allowed to stand under ether for a 48 hour period, and was then triturated to produce a white crystalline solid, 144 mg (55%), melting point 152°-153° C. [α]D =-128.6° (c=1.2, chloroform).

reactant | 3-Chloroperoxybenzoic acid | 2.0 mmol, 349 mg, 3 eq | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | (-)-3,4-dihydro-3-[(dimethylamino)carbonyl]-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methylethyl ester | CN(C(=O)N1C(=NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C)SCC1=CC=C(C=C1)OC)C | C26H30N4O6S
solvent | dichloromethane | 6.7 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | (-)-3-[(Dimethylamino)carbonyl]-1,2,3,4-tetrahydro-6-methyl-4-(3-nitrophenyl)-2-oxo-5-pyrimidinecarboxylic acid, 1-methylethyl ester | CN(C(=O)N1C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C)=O)C | C18H22N4O6
